US05366987
(a) 4-Dodecyl-1,2,3-triazole
A mixture of 1-tetradecyne (6.6 g, 34 mmol) and trimethylsilyl azide (4.1 g, 35 mmol) was autoclaved at 135° C. for 14 hours and then at 150° C. for 14 hours. The resulting mixture was rinsed with ether and the ether solution was washed with water, dried over MgSO4, filtered, and concentrated to give a brown oil. Triturated with cold hexanes to give the title compound as a tan solid (4.02 g, 50%); mp 64°-67° C.

reactant | 1-tetradecyne | 34 mmol, 6.6 g | C#CCCCCCCCCCCCC | C14H26
reactant | trimethylsilyl azide | 35 mmol, 4.1 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 4-Dodecyl-1,2,3-triazole | 4.02 g, 50% | C(CCCCCCCCCCC)C=1N=NNC1 | C14H27N3
